US04948794
b. 6-Bromo-2-methylamino-1-nitronaphthalene
A solution of 6-bromo-2-methoxy-1-nitronaphthalene (5.64 g, 20 mmol) in 100 ml of dry N,N-dimethylformamide saturated with methylamine was stirred in a stoppered flask at 80° C. for 4 h. During the reaction period the mixture was saturated twice with a further quantity of methylamine. The cooled mixture was poured into 1 1 of ice/water. After stirring for 1 h, the orange solid was collected by filtration and washed with water, and dried in vacuo over phosphorus pentoxide affording 5.43 g (96%) of the title compound. M.p. 169°-170 ° C.: 1H-NMR (CDCl3): 3.11 (d, J=5 Hz, 3H, CH3), 7.00 (d, J=9 Hz, 1H, ArH), 7.45-7.78 (m, 3H, ArH), 8.60 (d, J=9 Hz, 1H, ArH), 8.7 (broad, 1H, NH).

reactant | 6-bromo-2-methoxy-1-nitronaphthalene | 20 mmol, 5.64 g | BrC=1C=C2C=CC(=C(C2=CC1)[N+](=O)[O-])OC | C11H8BrNO3
reactant | methylamine | CN | CH5N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-Bromo-2-methylamino-1-nitronaphthalene | BrC=1C=C2C=CC(=C(C2=CC1)[N+](=O)[O-])NC | C11H9BrN2O2
